US08466283B2
Preparation of 2-aminopyrimidine-5-carboxylic acid
Methyl 2-aminopyrimidine-5-carboxylate (300 mg, 2.0 mmol) was diluted in methanol (5 mL) containing a few drops of water. Lithium hydroxide (122 mg, 5.1 mmol) was added, and the reaction mixture was stirred at 60° C. overnight. The mixture was concentrated under reduced pressure, then diluted in water and adjusted to pH 4 with 1 M HCl. 2-Aminopyrimidine-5-carboxylic acid precipitated as a white solid, which was isolated by vacuum filtration (244 mg, 90%): 1H NMR (DMSO-d6) δ: 12.73 (1H, br s), 8.63 (2H, s), 7.44 (2H, br s).

reactant | Methyl 2-aminopyrimidine-5-carboxylate | 2.0 mmol, 300 mg | NC1=NC=C(C=N1)C(=O)OC | C6H7N3O2
reactant | Lithium hydroxide | 5.1 mmol, 122 mg | [OH-].[Li+]
solvent | methanol | 5 mL | CO | CH4O
catalyst | water | a few drops | O | H2O
product | 2-aminopyrimidine-5-carboxylic acid | NC1=NC=C(C=N1)C(=O)O | C5H5N3O2
